US05808088
Under a dry nitrogen atmosphere, a 2.5 molar solution of butyllithium in hexane, 8.4 mL (21 mmol) was added by syringe to 20 mL pentane. The solution was cooled to 0° C. and 2.75 mL (2.13 g, 21 mmol) diisopropylamine was added by syringe over six minutes. The solution was warmed to 25° C. and stirred for three hours, then volatiles were removed in vacuo. Tetrahydrofuran, 20 mL, was added via syringe to the residue, and the resulting yellow solution cooled to 0° C. A solution of 2.42 g (10.5 mmol) N-[3-(1H-benzimidazol-2-yl)propyl]-N-methylacetamide in 10 mL tetrahydrofuran was added by syringe over nine minutes. The yellow solution was stirred at 0° C. for fifteen minutes, then cooled to -78° C. (S)-6-Fluoro-1-isopropyl-3,4-dihydro-1H-naphthalen-2-one, 2.166 g, 87.2% pure, 97.6:2.4 S:R, in 2 mL toluene was added by syringe over twelve minutes, and a further 2 mL toluene was used to complete the transfer. After stirring at -78° C. for two hours, the viscous yellow mixture was added to 50 mL water at less than 10° C. The suspension that formed was extracted with 50 mL diethyl ether, then with a further 25 mL diethyl ether; and the combined ether extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford 3.74 g of impure (1S,2S)-N-[3-(1H-benzimidazol-2-yl)propyl]-2-(6-fluoro-2-hydroxy-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl)-N-methylacetamide as a yellow foam. The foam was recrystallized from 6-8 mL toluene, and washed on the filter with 5 mL of toluene at -30° C. to afford 2.69 g of (1S,2S)-N-[3-(1H-benzimidazol-2-yl)propyl]-2-(6-fluoro-2-hydroxy-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl)-N-methylacetamide as a colorless solid, m.p. 132°-138° C. This material may be recrystallized a second time from toluene to remove residual (S)-6-fluoro-1-isopropyl-3,4-dihydro-1H-naphthalen-2-one if necessary and desired.

reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 21 mmol, 2.75 mL, 2.13 g | C(C)(C)NC(C)C | C6H15N
reactant | N-[3-(1H-benzimidazol-2-yl)propyl]-N-methylacetamide | 10.5 mmol, 2.42 g | N1C(=NC2=C1C=CC=C2)CCCN(C(C)=O)C | C13H17N3O
reactant | (S)-6-Fluoro-1-isopropyl-3,4-dihydro-1H-naphthalen-2-one | FC=1C=C2CCC([C@H](C2=CC1)C(C)C)=O | C13H15FO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
solvent | pentane | 20 mL | CCCCC | C5H12
product | (1S,2S)-N-[3-(1H-benzimidazol-2-yl)propyl]-2-(6-fluoro-2-hydroxy-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl)-N-methylacetamide | 3.74 g | N1C(=NC2=C1C=CC=C2)CCCN(C(C[C@@]2([C@H](C1=CC=C(C=C1CC2)F)C(C)C)O)=O)C | C26H32FN3O2
